US08258134B2
A pressure vial containing a mixture of 4-chloro-5-(methyl-phenyl-amino)-2H-pyridazin-3-one (158.7 mg, 0.67 mmol), water (10 mL), and a 2N aqueous solution of sodium hydroxide (0.37 mL) was treated with 10% palladium on carbon (15.8 mg, 10% weight of 4-chloro-5-(methyl-phenyl-amino)-2H-pyridazin-3-one). The reaction was then pressurized with hydrogen (50 psi), where it shook overnight. The resulting reaction mixture was filtered through a pad of diatomaceous earth and rinsed with methanol. The filtrate was concentrated in vacuo. The resulting solution was acidified to pH 1-2 with a 1N aqueous hydrochloric acid solution and then extracted into methylene chloride (2×25 mL). Thin layer chromatography indicated the presence of starting material. The reaction was re-exposed to the same hydrogenation conditions. The reaction was hydrogenated (50 psi) for 2 d. After this time, the resulting reaction mixture was filtered through a pad of diatomaceous earth and rinsed with methanol. The filtrate was concentrated in vacuo. The resulting solution was acidified to pH 1-2 with a 1N aqueous hydrochloric acid solution and then extracted into methylene chloride (3×25 mL). The combined organics were dried over magnesium sulfate, filtered, rinsed, and concentrated in vacuo. Silica gel column chromatography (AnaLogix 24 g, 50-100% ethyl acetate/hexanes) afforded 5-(methyl-phenyl-amino)-2H-pyridazin-3-one (75.8 mg, 56%) as a yellow solid.

reactant | 4-chloro-5-(methyl-phenyl-amino)-2H-pyridazin-3-one | 0.67 mmol, 158.7 mg | ClC=1C(NN=CC1N(C1=CC=CC=C1)C)=O | C11H10ClN3O
reactant | sodium hydroxide | 0.37 mL | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 15.8 mg | [Pd] | Pd
solvent | water | 10 mL | O | H2O
product | 5-(methyl-phenyl-amino)-2H-pyridazin-3-one | 75.8 mg, 56% | CN(C1=CC(NN=C1)=O)C1=CC=CC=C1 | C11H11N3O
